US07625888B2
Step C: 2-(Trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine, hydrochloride
A flask containing a solution of 23.4 g (71.41 mmol) of 7-benzyl-4-chloro-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine in 285 mL of ethyl acetate and 530 mL of methanol was purged with nitrogen, and 2 g of 10% Pd/C was added. The mixture was stirred under 1 atm of hydrogen until the reaction was judged complete by TLC analysis (about 7.5 h total). The mixture was filtered through Celite, and the Celite washed with methanol. The organics were concentrated in vacuo and the resultant pale yellow oil was triturated with 400 mL of ether. Crystals formed and an additional 400 mL of ether was added. The mixture was stirred overnight. The resultant solid was collected by filtration and dried in vacuo to give off-white crystals that contained an impurity by TLC analysis. The crystals were dissolved in a minimum amount of methanol. Ether was added to turbidity and the mixture was warmed on a steam bath. Crystals formed and the mixture was allowed to cool to ambient temperature and aged for 30 min. It was then filtered. The collected solid was dried in vacuo to give the title compound as a white crystalline solid. LC-MS 204 (M+1).

reactant | 7-benzyl-4-chloro-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 71.41 mmol, 23.4 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)C(F)(F)F | C15H13ClF3N3
reactant | ether | 400 mL | CCOCC | C4H10O
solvent | ethyl acetate | 285 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 530 mL | CO | CH4O
product | 2-(Trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine, hydrochloride | Cl.FC(C=1N=CC2=C(N1)CNCC2)(F)F | InChI=1S/C8H8F3N3.ClH/c9-8(10,11)7-13-3-5-1-2-12-4-6(5)14-7;/h3,12H,1-2,4H2;1H
